US04833164
2-(3-Hydroxypropyl)-1-benzyloxynaphthalene
A solution of borane (1.0M in tetrahydrofuran; 100 mL, 0.100 mole) was treated at 0° with a solution of 2-methyl-2-butene (2.0M in tetrahydrofuran; 100 mL, 0.200 mole) over 40 minutes, and the resulting solution stirred at 0° for 2 hours. A solution of 2-(2-propenyl)-1-benzyloxynaphthalene (27.40 g, 0.100 mole) in dry tetrahydrofuran (50 mL) was added over 25 minutes, and stirring was continued for 40 minutes. Water (4.0 mL) was then added, followed by 3.0M aqueous sodium hydroxide (34 mL), followed by 30% aqueous hydrogen peroxide (34 mL). After the mixture was warmed to room temperature, it was extracted with ether. The residue was chromatographed with 1:1 ether/hexane and recrystallized (cyclohexane) to provide the title compound (16.10 g, 55%) as a white solid, mp 80°-81°.

reactant | borane | 0.100 mole, 1.0M, 100 mL | B | BH3
reactant | 2-methyl-2-butene | 0.200 mole, 2.0M, 100 mL | CC(C)=CC | C5H10
reactant | 2-(2-propenyl)-1-benzyloxynaphthalene | 0.100 mole, 27.40 g | C(C=C)C1=C(C2=CC=CC=C2C=C1)OCC1=CC=CC=C1 | C20H18O
reactant | sodium hydroxide | 3.0M, 34 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 34 mL | OO | H2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | 4.0 mL | O | H2O
product | 2-(3-Hydroxypropyl)-1-benzyloxynaphthalene | 16.10 g, 55% | OCCCC1=C(C2=CC=CC=C2C=C1)OCC1=CC=CC=C1 | C20H20O2
